US06677368B2
A solution of 3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrole-2-carboxylic acid (12.67 mmol) in TFA (75 mL) was stirred at 0° C. for 30 mins. To the mixture was added triethyl orthoformate (20 mL), it was then allowed to warm up slowly to rt for 2 hours. The solvent was removed and to the residue was added NaHCO3, extracted with ethyl acetate, dried and concentrated to give 2.56 g of 3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrole-2-carbaldehyde as a light yellow solid.

reactant | 3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrole-2-carboxylic acid | 12.67 mmol | CC1=C(NC(=C1C1CCN(CC1)C)C)C(=O)O | C13H20N2O2
reactant | triethyl orthoformate | 20 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | TFA | 75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3,5-dimethyl-4-(1-methyl-piperidin-4-yl)-1H-pyrrole-2-carbaldehyde | 2.56 g | CC1=C(NC(=C1C1CCN(CC1)C)C)C=O | C13H20N2O
